US04789396
To a solution of 2.3 g of 2-acetyl-5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione in 10 ml of acetic acid, 1.8 g of 30% H2O2 was dropped under cooling with ice-water bath. After stirring for 1 hour at room temperature, the reaction solution was poured into water and extracted with ethyl acetate. Removal of solvent afforded 1.83 g of 2-acetyl-5-[2-(4-trifluoromethylphenylsulfinyl)ethyl]cyclohexane-1,3-dione. m.p. 99°-100° C.

reactant | 2-acetyl-5-[2-(4-trifluoromethylphenylthio)ethyl]cyclohexane-1,3-dione | 2.3 g | C(C)(=O)C1C(CC(CC1=O)CCSC1=CC=C(C=C1)C(F)(F)F)=O | C17H17F3O3S
reactant | H2O2 | 1.8 g | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-acetyl-5-[2-(4-trifluoromethylphenylsulfinyl)ethyl]cyclohexane-1,3-dione | 1.83 g | C(C)(=O)C1C(CC(CC1=O)CCS(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C17H17F3O4S
